US07465815B2
5-Amino-2,2,4,6,7-pentamethyl-1-benzofuran-3 (2H)-one
Using 5-(benzylamino)-2,2,4,6,7-pentamethyl-1-benzofuran-3 (2H)-one obtained in Reference Example 52, the title compound was synthesized in the same manner as in Reference Example 30. Yield 88%. Melting point: 92-93° C. (ethyl acetate-hexane).

reactant | 5-(benzylamino)-2,2,4,6,7-pentamethyl-1-benzofuran-3 (2H)-one | C(C1=CC=CC=C1)NC=1C(=C(C2=C(C(C(O2)(C)C)=O)C1C)C)C | C20H23NO2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 5-Amino-2,2,4,6,7-pentamethyl-1-benzofuran-3 (2H)-one | Yield 88% | NC=1C(=C(C2=C(C(C(O2)(C)C)=O)C1C)C)C | C13H17NO2
